* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft10.asc
R1 N001 N003 4
R2 0 N003 6
V1 N002 0 SINE(0 1 1K)
C1 N002 N001 2
.op
.backanno
.end
